US05019587
2,3-Dihydro-3,3-dimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide.
8 g. 2,3-Dihydro-3,3-dimethyl-2-oxo-(1H)-indole-6-carboxylic acid and 1 drop of dimethylformamide were heated in 50 ml. thionyl chloride for 1 hour to the boil under reflux, the substance thereby going into solution. The thionyl chloride was removed under vacuum, the residue was suspended in dichloromethane and a solution of 1.6 ml. aniline and 2.7 ml. triethylamine in 30 ml. dichloromethane added dropwise thereto at an internal temperature of 15° C. The reaction mixture was stirred for 15 minutes at ambient temperature, the solvent was removed in a vacuum and the residue was digested with water, filtered off with suction and recrystallised from ethyl acetate. There were obtained 2.8 g. (56% of theory) of the title compound; m.p. 205-206° C.

reactant | 2,3-Dihydro-3,3-dimethyl-2-oxo-(1H)-indole-6-carboxylic acid | CC1(C(NC2=CC(=CC=C12)C(=O)O)=O)C | C11H11NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-3,3-dimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide | CC1(C(NC2=CC(=CC=C12)C(=O)NC1=CC=CC=C1)=O)C | C17H16N2O2
